US08633173B2
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-[5-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine and 1-(5-bromo-pyridin-3-yl)-4-methyl-piperazine in a manner analogous to Step 2d and was isolated as an off-white lyophilate

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | CS(=O)(=O)C1=CC=C(C=C1)C1=CN=CC=2N1N=C(N2)N | C12H11N5O2S
reactant | 1-(5-bromo-pyridin-3-yl)-4-methyl-piperazine | BrC=1C=C(C=NC1)N1CCN(CC1)C | C10H14BrN3
product | [5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-[5-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-amine | 4% yield | CS(=O)(=O)C1=CC=C(C=C1)C1=CN=CC=2N1N=C(N2)NC=2C=NC=C(C2)N2CCN(CC2)C | C22H24N8O2S
